US08604061B2
To a stirred solution of tert-butyl (R)-4-(hydroxymethyl)-2,2-dimethyl-3-oxazolidinecarboxylate (400 mg; CAS 108149-63-9) in THF (20 ml) were added phenol (197 mg), triphenylphosphine (573 mg) and di-tert-butyl azodicarboxylate (488 mg). The resulting yellow solution was stirred at 70° C. for 18 h overnight, then concentrated in vacuo. The crude product was purified by column chromatography (SiO2; gradient: heptane/EtOAc 100:0->70:30) to give (R)-2,2-dimethyl-4-phenoxymethyl-oxazolidine-3-carboxylic acid tert-butyl ester (336 mg, 63%) as a colourless viscous oil. MS (ISP): 308.3 ([M+H]+)).

reactant | tert-butyl (R)-4-(hydroxymethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 400 mg | OC[C@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C11H21NO4
reactant | phenol | 197 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 573 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 488 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-2,2-dimethyl-4-phenoxymethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 336 mg, 63% | C(C)(C)(C)OC(=O)N1C(OC[C@H]1COC1=CC=CC=C1)(C)C | C17H25NO4
